US06274725B1
Synthesis of benzimidazolium tetrafluoroborate
To a solution of benzimidazole (10 g, 84.6 mmol) in dichloromethane (30 mL) is added dropwise tetrafluoroboric acid as its etherate (85%, HBF4 by volume, Aldrich Chemicals Co.) with stirring at 0° C. The reaction mixture is diluted with diethylether (100 mL) to precipitate the title compound. The title compound is filtered, washed with ether and recrystallized from ether.

reactant | benzimidazole | 84.6 mmol, 10 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | HBF4 | [H+].[B-](F)(F)(F)F
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
product | benzimidazolium tetrafluoroborate | F[B-](F)(F)F.[NH+]1=CNC2=C1C=CC=C2 | InChI=1S/C7H6N2.BF4/c1-2-4-7-6(3-1)8-5-9-7;2-1(3,4)5/h1-5H,(H,8,9);/q;-1/p+1
